US08252959B2
A mixture of 152 g (1.18 mol) of benzyl chloride, 108 g (1.18 mol) of tetrahydrothiophene and 0.225 L of water is stirred well at 85° C. until a homogeneous clear or slightly turbid single-phase solution of S-benzyltetrahydrothiophenium chloride has been obtained. The solution is cooled to 20° C. and is slowly added dropwise to a reaction mixture consisting of potassium hydroxide solution (prepared from 267 g (4.75 mol) of potassium hydroxide in 0.53 L of ice-water) and 467 g of cyclohexanone (4.75 mol) in 225 g of methanol. After the addition is complete, the reaction mixture is allowed to stand for 10 minutes until the phases have separated; the organic phase is separated off and subjected to fractional distillation. 181 g (80%) of 2-phenyl-1-oxa-spiro[2.5]octane are obtained in the form of a clear colourless oil.

reactant | benzyl chloride | 1.18 mol, 152 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | tetrahydrothiophene | 1.18 mol, 108 g | S1CCCC1 | C4H8S
reactant | S-benzyltetrahydrothiophenium chloride | [Cl-].C(C1=CC=CC=C1)[S+]1CCCC1
reactant | potassium hydroxide | 4.75 mol, 0.53 L, 267 g | [OH-].[K+]
reactant | potassium hydroxide | 4.75 mol | [OH-].[K+]
reactant | cyclohexanone | 4.75 mol, 467 g | C1(CCCCC1)=O | C6H10O
solvent | methanol | 225 g | CO | CH4O
solvent | water | 0.225 L | O | H2O
product | 2-phenyl-1-oxa-spiro[2.5]octane | 181 g, 80% | C1(=CC=CC=C1)C1OC12CCCCC2 | C13H16O
